US04247700
N-(n-Butyl)-1-(2-cyano-2-propenyl)-4-piperidinecarboxamide
Cyanoacetic acid (0.9 g., 0.01 mole) was dissolved in 11 ml. of dioxane and 4 ml. of water. N-butyl isonipecotamide (1.84 g., 0.01 mole) was added with stirring in portions to keep the temperature below 30° C. In 2 minutes 37% aqueous formaldehyde (1.66 g., 0.02 mole) was added and the temperatures maintained at 25°-28° C. Carbon dioxide evolution was evident. After 4 hours, the reaction appeared complete as determined by thin layer chromatography on silica gel developed with chloroform-methyl alcohol (95:5). The solvents were removed by stripping at 35° C./15 mm. and the residue taken up in 100 ml. methylene chloride. The organic phase was washed with water, dried and stripped to yield 1.7 g. of product, analytically pure.

reactant | Cyanoacetic acid | 0.01 mole, 0.9 g | C(#N)CC(=O)O | C3H3NO2
reactant | N-butyl isonipecotamide | 0.01 mole, 1.84 g | C(CCC)NC(C1CCNCC1)=O | C10H20N2O
reactant | formaldehyde | 0.02 mole, 1.66 g | C=O | CH2O
reactant | Carbon dioxide | C(=O)=O | CO2
solvent | chloroform methyl alcohol | C(Cl)(Cl)Cl.CO
solvent | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(n-Butyl)-1-(2-cyano-2-propenyl)-4-piperidinecarboxamide | C(CCC)NC(=O)C1CCN(CC1)CC(=C)C#N | C14H23N3O
